US05110925
4,5-Dihydro-6-(4-((3-oxo-1-cyclopentenyl)amino)phenyl)-5-methyl-3(2H)-pyridazinone (Compound No. 14)
0.51 g of 4,5-dihydro-6-(4-aminophenyl)-5-methyl-3(2H)-pyridazinone and 0.25 g of cyclopentane-1,3-dione were suspended in a mixture of 5 ml of ethanol and 5 ml of acetic acid and the resulting suspension was refluxed for 7 hours. After cooled, deposited crude crystal was collected by filtrating and recrystallized from DMF-heptane-CHCl3 to give 0.24 g of the title compound. m.p. >300° C. NMR (solvent DMSO-d6 -CDCl3) δ 1.20 (d, 3H), 2.32-3.32 (m, 7H), 5.60 (S, 1H), 7.56 (dd, 4H), 9.82 (S, 1H), 10.80 (S, 1H).

reactant | 4,5-dihydro-6-(4-aminophenyl)-5-methyl-3(2H)-pyridazinone | 0.51 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | cyclopentane-1,3-dione | 0.25 g | C1(CC(CC1)=O)=O | C5H6O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4,5-Dihydro-6-(4-((3-oxo-1-cyclopentenyl)amino)phenyl)-5-methyl-3(2H)-pyridazinone | 0.24 g | O=C1C=C(CC1)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C16H17N3O2
